US09359338B2
Step 5: Synthesis of (3-(diphenylmethyleneamino)-5-(trifluoromethyl)phenyl)(1-methylpiperidin-4-yl)methanone
Add benzophenone imine (195 mg, 1.07 mmol), (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene (BINAP, 37 mg, 0.059 mmol), tris(dibenzylideneacetone)dipalladium [Pd2(dba)3, 25 mg, 0.027 mmol] and cesium carbonate (585 mg, 1.79 mmol) to the solution of (3-bromo-5-(trifluoromethyl)phenyl)(1-methylpiperidin-4-yl)methanone (251 mg, 0.717 mmol) in dioxane (5 mL), then stir the reaction mixture overnight at 100° C. Upon reaction completion, filter the mixture and concentrate the filtrate under reduced pressure. Purify the residue with flash chromatography (silica gel, PE:EtOAc=1:1) to afford the product (210 mg, 65%). MS: (M+1): 451.2.

reactant | benzophenone imine | 1.07 mmol, 195 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthalene | 0.059 mmol, 37 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 1.79 mmol, 585 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (3-bromo-5-(trifluoromethyl)phenyl)(1-methylpiperidin-4-yl)methanone | 0.717 mmol, 251 mg | BrC=1C=C(C=C(C1)C(F)(F)F)C(=O)C1CCN(CC1)C | C14H15BrF3NO
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.027 mmol, 25 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3-(diphenylmethyleneamino)-5-(trifluoromethyl)phenyl)(1-methylpiperidin-4-yl)methanone | 210 mg, 65% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=C(C=C(C1)C(F)(F)F)C(=O)C1CCN(CC1)C | C27H25F3N2O
